US06800778B1
(1) Production of ethyl 1-benzoylcyclopropanecarboxylate
To 1370 ml of acetonitrile were added ethyl benzoylacetate (49.9 g, 0.26 mol), 1,2-dibromomethane (48.8 g, 0.26 g) and anhydrous potassium carbonate (143.6 g, 1.04 mol) and the mixture was stirred under reflux for 18 h. After cooling, the reaction mixture was filtrated and concentrated. The residual solution (56.3 g) was purified by silica gel column chromatography (ethyl acetate/hexane=1/5) to give the title compound (38.7 g) as a colorless oil (yield 68%).

reactant | ethyl benzoylacetate | 0.26 mol, 49.9 g | C(C1=CC=CC=C1)(=O)CC(=O)OCC | C11H12O3
reactant | 1,2-dibromomethane | 48.8 g | C(CBr)Br | C2H4Br2
reactant | potassium carbonate | 1.04 mol, 143.6 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 1370 ml | C(C)#N | C2H3N
product | ethyl 1-benzoylcyclopropanecarboxylate | 38.7 g, yield 68% | C(C1=CC=CC=C1)(=O)C1(CC1)C(=O)OCC | C13H14O3
